US05242930
2-(Diphenylmethyl)-1-azabicyclo[2.2.2]octan-3-ol (mixture of cis/trans 80:20)
2-(Diphenylmethyl)-1-azabicyclo[2.2.2]octan-3-one (18.9 g) was dissolved in tetrahydrofuran (350 ml), anhydrous) and cooled to -65° C. under nitrogen. Lithium aluminium hydride (1.0 M solution in THF, 40 ml) was added dropwise to the solution which was stirred at room temperature overnight. Water (2 ml) followed by sodium hydroxide (15% 2 ml) and water (6 ml) were added dropwise to the solution resulting in precipitation of the inorganic salts. Magnesium sulfate (2 g) was added and the mixture filtered through celite. The solvent was removed in vacuo and the residue was recrystallised from isopropanol affording the pure cis isomer. The mother liquors were concentrated and found to be 80:20 cis/trans by 1H NMR; this was used in the examples without further purification.

reactant | 2-(Diphenylmethyl)-1-azabicyclo[2.2.2]octan-3-one | 18.9 g | C1(=CC=CC=C1)C(C1N2CCC(C1=O)CC2)C2=CC=CC=C2 | C20H21NO
reactant | Lithium aluminium hydride | 1.0 M, 40 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | Magnesium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | water | 6 ml | O | H2O
solvent | Water | 2 ml | O | H2O
product | 2-(Diphenylmethyl)-1-azabicyclo[2.2.2]octan-3-ol | C1(=CC=CC=C1)C(C1N2CCC(C1O)CC2)C2=CC=CC=C2 | C20H23NO
